US04879295
A solution of 3-hydroxythiopicolinamide (500 mg) in dry ethanol (25 ml) was added dropwise to a solution of ethyl bromopyruvate (0.542 ml) in dry ethanol (20 ml) under nitrogen atmosphere and the mixture was refluxed for 2 hours. The solvent was removed from the reaction mixture, and the residue was treated with water, neutralized with 4% aqueous sodium carbonate and extracted with ethyl acetate. The organic layer was washed with saturated aqueous NaCl, dried (anhydrous Na2SO4) and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:benzene=1:9). The second fraction was concentrated. The produced solids were recrystallized from methanol-water to give yellowish crystals of ethyl 2-(3-hydroxy-2-pyridyl)-4-thiazole carboxylate (260 mg, 32%), m.p. 131°-134° C.

reactant | 3-hydroxythiopicolinamide | 500 mg | OC=1C(=NC=CC1)C(=S)N | C6H6N2OS
reactant | ethyl bromopyruvate | 0.542 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-(3-hydroxy-2-pyridyl)-4-thiazole carboxylate | 260 mg, 32% | OC=1C(=NC=CC1)C=1SC=C(N1)C(=O)OCC | C11H10N2O3S
